data/nitro/train.csv
rxn,smiles,ea
790,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])(\[c:31]1[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]([H:39])[c:40]1[H:41])[H:42]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])([c:31]1[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]([H:39])[c:40]1[H:41])[H:42],-5.148262172325876
939,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[Br:14])(\[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Br:14])([H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26],-8.926823647489046
251,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[Cl:14])([Cl:15])[Cl:16]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Cl:14])([Cl:15])[Cl:16],-4.632180183145052
280,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[H:22])([Cl:23])[Cl:24]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[H:22])([Cl:23])[Cl:24],-13.758809749952936
732,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Cl:17])([c:18]1[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]1[H:28])[c:29]1[c:30]([H:31])[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]1[H:39]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Cl:17])([c:18]1[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]1[H:28])[c:29]1[c:30]([H:31])[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]1[H:39],-1.520762307613538
B6,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7]1([C:8]([H:9])([H:10])[H:11])=[C:8]([H:12])[C:9](=[O:10])[C:13]([H:14])([H:15])[C:16]1([H:17])[H:18]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]1([C:8]([H:9])([H:10])[H:11])[C:8]([H:12])=[C:9]([O-:10])[C:13]([H:14])([H:15])[C:16]1([H:17])[H:18],-8.05074700338247
231,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26])(\[Cl:27])[C:28]([H:29])([H:30])[H:31]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26])([Cl:27])[C:28]([H:29])([H:30])[H:31],-5.5397220349909935
2,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[H:11])[C:12]([H:13])([H:14])[H:15])([C:16]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[C:12]([H:13])([H:14])[H:15])([C:16]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23],-9.401671361879416
511,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26])([Br:27])[Br:28]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26])([Br:27])[Br:28],-2.780851531732892
979,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[Br:14])([H:15])[H:16]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Br:14])([H:15])[H:16],-17.330687802213586
D2,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[C:19]([H:20])([H:21])[C:22]([H:23])([H:24])[C:25]([H:26])([H:27])[C:28]([H:29])([H:30])[C:31]([H:32])([H:33])[H:34])[H:35]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])([C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[C:19]([H:20])([H:21])[C:22]([H:23])([H:24])[C:25]([H:26])([H:27])[C:28]([H:29])([H:30])[C:31]([H:32])([H:33])[H:34])[H:35],-13.850886097570871
894,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])(\[H:21])[Br:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])([H:21])[Br:22],-6.123989831276933
